US07425568B2
2-(2-Chlorophenyl)chroman-6-ol was prepared as described for 2-(3-fluorophenyl)chroman-6-ol in Example 9(c) starting from 500 mg of 2-(2-chlorophenyl)-chroman-4,6-diol. 1H NMR (300 MHz, d6-DMSO) δ: 7.58-7.36 (m, 4H), 6.66 (m, 1H), 6.55-6.51 (m, 2H), 5.23 (dd, 1H, J 10.1, 2.1 Hz), 2.92 (m, 1H), 2.68 (m, 1H), 2.17 (m, 1H), 1.87 (m, 1H).

reactant | 2-(3-fluorophenyl)chroman-6-ol | FC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H13FO2
reactant | 2-(2-chlorophenyl)-chroman-4,6-diol | 500 mg | ClC1=C(C=CC=C1)C1OC2=CC=C(C=C2C(C1)O)O | C15H13ClO3
product | 2-(2-Chlorophenyl)chroman-6-ol | ClC1=C(C=CC=C1)C1OC2=CC=C(C=C2CC1)O | C15H13ClO2
